US07273868B2
4-(3-Chloro-4-methoxybenzylamino)-5-[N-(2-pyrimidinylmethyl)carbamoyl]-6-methoxy-2-methylsulfinylpyrimidine (prepared in the above (4)) and L-prolinol is treated in the same manner as Example 321(5) to give 4-(3-chloro-4-methoxybenzylamino)-5-[N-(2-pyrimidinylmethyl)carbamoyl]-6-methoxy-2-(2-hydroxymethyl-1-pyrrolodinyl)pyrimidine as a colorless crystalline powder 88 mg. mp 153-154° C.

reactant | 4-(3-Chloro-4-methoxybenzylamino)-5-[N-(2-pyrimidinylmethyl)carbamoyl]-6-methoxy-2-methylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(NCC2=NC=CC=N2)=O)OC)S(=O)C)C=CC1OC | C20H21ClN6O4S
reactant | L-prolinol | N1[C@H](CO)CCC1 | C5H11NO
product | 4-(3-chloro-4-methoxybenzylamino)-5-[N-(2-pyrimidinylmethyl)carbamoyl]-6-methoxy-2-(2-hydroxymethyl-1-pyrrolodinyl)pyrimidine | 88 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(NCC2=NC=CC=N2)=O)OC)N2C(CCC2)CO)C=CC1OC | C24H28ClN7O4
